US05071966
[Synthesis of p-nitrobenzyl 2-diazo-3-tert-butyldimethylsilyloxybutenoate]
Into 5 ml of dry acetonitrile were suspended 263 mg (1 millimole) of p-nitrobenzyl 2-diazoacetoacetate, 226 mg (1.5 millimoles) of tertbutyldimethylsilyl chloride and 210 mg (1.4 millimoles) of sodium iodide. To the mixture was added 220 μl (1.6 millimoles) of triethylamine under an argon atmosphere at a room temperature. The resultant was heated up to 40° C. and agitated at the same temperature overnight, followed by concentration under a reduced pressure. To the residue was added 20 ml of ethyl acetate, and the resultant was washed twice with 10 ml portions of water. The organic layer was dried and then concentrated to dryness under a reduced pressure to give 340 mg (yield 90%) of the desired compound in a yellow solid. The physical properties of the product were in agreement with those of the product obtained in Example 2.

reactant | p-nitrobenzyl 2-diazoacetoacetate | 1 millimole, 263 mg | [N+](=[N-])=C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)C | C11H9N3O5
reactant | tertbutyldimethylsilyl chloride | 1.5 millimoles, 226 mg | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | sodium iodide | 1.4 millimoles, 210 mg | [I-].[Na+]
reactant | triethylamine | 1.6 millimoles, 220 μl | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | p-nitrobenzyl 2-diazo-3-tert-butyldimethylsilyloxybutenoate | 340 mg, yield 90% | [N+](=[N-])=C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=C)O[Si](C)(C)C(C)(C)C | C17H23N3O5Si
